US09216225B2
Preparation of tert-butyl 5,7-bis(bis(octadecyloxy)phosphoryl)heptanoate, E
Dioctadecyl hydrogen phosphonate may be reacted with tert-butyl 5-(bis(octadecyloxy)phosphoryl)hex-5-enoate, D, prepared in Example 4 using substantially the conditions found in Phosphorus, Sulfur and Silicon and the Related Elements, 83 (1-4), 77-98:1993 and outlined in FIG. 6. Thus, dioctadecyl hydrogen phosphonate (MW 586.95, 1.56 g, 2.66 mmol), dissolved in THF (30 mL) and sodium hydride (95%, FW 24.0, 2.66 mmol, 0.064 g) are allowed to react under inert atmosphere at RT with stirring. Then tert-butyl 5-(bis(octadecyloxy)phosphoryl)hex-5-enoate (MW 1356.2, 3.65 g, 2.69 mmol) in THF is added and allowed to react under an inert atmosphere until the reaction is complete. The reaction progress may be followed by TLC, rphplc or 31P nmr. At the completion of reaction the solvent may be removed by evaporation and the crude product purified by normal phase flash chromatography using a suitable solvent system (e.g., hexanes-ethyl acetate gradient (ELSD detection) to yield substantially pure product. The crude product may also be purified using reverse phase HPLC (e.g., C4, 300 A, and a suitable solvent gradient, e.g., water;isopropanol). The MS of the desired product is M+H+ 1357.2, M+Na+ 1379.2.

reactant | tert-butyl 5-(bis(octadecyloxy)phosphoryl)hex-5-enoate | C(CCCCCCCCCCCCCCCCC)OP(=O)(OCCCCCCCCCCCCCCCCCC)C(CCCC(=O)OC(C)(C)C)=C | C46H91O5P
reactant | Sulfur | [S] | S
reactant | sodium hydride | 2.66 mmol, 0.064 g | [H-].[Na+]
reactant | tert-butyl 5-(bis(octadecyloxy)phosphoryl)hex-5-enoate | 2.69 mmol, 3.65 g | C(CCCCCCCCCCCCCCCCC)OP(=O)(OCCCCCCCCCCCCCCCCCC)C(CCCC(=O)OC(C)(C)C)=C | C46H91O5P
solvent | Phosphorus | [P] | P
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | tert-butyl 5,7-bis(bis(octadecyloxy)phosphoryl)heptanoate | C(CCCCCCCCCCCCCCCCC)OP(=O)(OCCCCCCCCCCCCCCCCCC)C(CCCC(=O)OC(C)(C)C)CCP(=O)(OCCCCCCCCCCCCCCCCCC)OCCCCCCCCCCCCCCCCCC | C83H168O8P2
